US07776875B2
Preparation of Intermediate 5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde
A mixture of 5-chloro-2-hydroxy-benzaldehyde (4.5 g, 29 mmol), toluene-4-sulfonic acid 3-methyl-oxetan-3-ylmethyl ester in Example 13c (6.4 g, 25 mmol) and K2CO3 (8 g, 58 mmol) in anhydrous N,N-dimethylformamide (40 mL) was heated at 100° C. for 1 h. Then the mixture was filtered and the filtrate was concentrated. The residue was dissolve in EtOAc (50 mL). The solution was washed with water, dried and concentrated to give title compound as a yellow oil (5.2 g).

reactant | 5-chloro-2-hydroxy-benzaldehyde | 29 mmol, 4.5 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | toluene-4-sulfonic acid 3-methyl-oxetan-3-ylmethyl ester | CC1(COC1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H16O4S
reactant | K2CO3 | 58 mmol, 8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 5-chloro-2-(3-methyl-oxetan-3-ylmethoxy)-benzaldehyde | 5.2 g | ClC=1C=CC(=C(C=O)C1)OCC1(COC1)C | C12H13ClO3
